US04162246
2,2-Bis{4-[2-octanoyloxy-3-(7,7,8,9,9-pentamethyl-2,4-dioxo-1,3,8-triazaspiro[4.5]dec-3-yl)propoxy]phenyl}propane (Compound No. 37)
A mixture of 8.0 g of 2,2-bis{4[2-hydroxy-3-(7,7,8,9,9-pentamethyl-2,4-dioxo-1,3,8-triazaspiro[4.5]dec-3-yl)propoxy]phenyl}propane obtained as described in Example 1, and 15.0 g of n-octanoic anhydride was heated at 140°-150° C. for 3 hours, with stirring. 10.0 g of potassium carbonate was added in small portions to the mixture and then the heating was continued at the same temperature, with stirring, for an additional 2 hours. When the reaction was complete, the reaction mixture was cooled and 200 ml of benzene were added thereto. The benzene solution was washed with a 3% w/w aqueous solution of potassium carbonate and then dried over anhydrous potassium carbonate. The solvent was then removed from the reaction mixture, leaving a residue, which was recrystallised from a 2:1 by volume mixture of petroleum benzine/benzene, to give the desired Compound No. 37, in the form of white crystals melting at 131°-135° C.

reactant | 2,2-bis{4[2-hydroxy-3-(7,7,8,9,9-pentamethyl-2,4-dioxo-1,3,8-triazaspiro[4.5]dec-3-yl)propoxy]phenyl}propane | 8.0 g | OC(COC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)OCC(CN1C(NC2(C1=O)CC(N(C(C2)(C)C)C)(C)C)=O)O)CN2C(NC1(C2=O)CC(N(C(C1)(C)C)C)(C)C)=O | C45H66N6O8
reactant | n-octanoic anhydride | 15.0 g | C(CCCCCCC)(=O)OC(CCCCCCC)=O | C16H30O3
reactant | potassium carbonate | 10.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 2,2-Bis{4-[2-octanoyloxy-3-(7,7,8,9,9-pentamethyl-2,4-dioxo-1,3,8-triazaspiro[4.5]dec-3-yl)propoxy]phenyl}propane | C(CCCCCCC)(=O)OC(COC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)OCC(CN1C(NC2(C1=O)CC(N(C(C2)(C)C)C)(C)C)=O)OC(CCCCCCC)=O)CN2C(NC1(C2=O)CC(N(C(C1)(C)C)C)(C)C)=O | C61H94N6O10
